US07834063B2
4-[[2-(Phenylthio)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
A solution of 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.060 g, 0.19 mmol) in THF (2 mL) was treated with phenyidisulfide (0.168 g, 0.77 mmol) and tributylphosphine (0.156 g, 0.77 mmol) and stirred at rt for 3 h. The mixture was partitioned between EtOAc and 0.5N NaOH. The organic phase was washed with 0.5N NaOH and brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel chromatography (5-30% EtOAc/hexanes gradient) to give the title compound (0.072 g, 93%): MS (ES) m/z 405 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.19 mmol, 0.060 g | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | phenyidisulfide | 0.77 mmol, 0.168 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | tributylphosphine | 0.77 mmol, 0.156 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[[2-(Phenylthio)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.072 g, 93% | C1(=CC=CC=C1)SCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C18H14F6N2S
